US09403818B2
Preparation of 8-(3-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid
Methyl 8-(3-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (43 mg, 0.083 mmol) was dissolved in MeOH (2 mL) and sodium hydroxide 1M solution in water (0.5 mL, 0.5 mmol) was added. The mixture was stirred at 50° C. for 2 h. After cooling, the MeOH was removed in vacuum. The residue was dissolved in water (5 mL) and then neutralized with 1M HCl (−0.5 mL). The precipitate formed was stirred at room temperature overnight. The mixture was extracted with DCM (3×4 mL). The organic layers were concentrated to afford the title compound as a yellow solid (29 mg, 69%).

reactant | Methyl 8-(3-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.083 mmol, 43 mg | C(C)(C)(C)OC(=O)NC1C(NC2=CC(=CC=C2C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)=O | C29H31N3O6
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | water | 0.5 mmol, 0.5 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | 8-(3-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid | 29 mg, 69% | C(C)(C)(C)OC(=O)NC1C(NC2=CC(=CC=C2C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)=O | C28H29N3O6
